US07842685B2
Potassium t-butoxide (36 mg, 0.32 mmol) was added to a solution of trimethyl-sulfoxonium iodide (440 mg, 0.48 mmol) in DMSO to make a 1M solution of ylide. This reaction mixture was stirred for 10 min at RT, then a portion of it (0.64 mL, 0.64 mmol) was added to a solution of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-(pyridine-2-yl)vinyl)-benzo[d]thiazole (134 mg, 0.32 mmol) in THF (0.5 mL). The reaction mixture was stirred overnight, EtOAc was added, and the mixture was washed with water several times, then dried over MgSO4. After concentrating under vacuum, the resulting oil was purified by silica gel chromatography to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-(pyridine-2-yl)-cyclopropyl)benzo[d]thiazole. MS (ESI) m/z: Calculated: 432.1; Observed: 433.1 (M++1).

reactant | Potassium t-butoxide | 0.32 mmol, 36 mg | CC(C)([O-])C.[K+]
reactant | trimethyl-sulfoxonium iodide | 0.48 mmol, 440 mg | [I-].C[S+](=O)(C)C
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-(pyridine-2-yl)vinyl)-benzo[d]thiazole | 0.32 mmol, 134 mg | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C(=C)C2=NC=CC=C2)F | C24H19FN2O2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-(pyridine-2-yl)-cyclopropyl)benzo[d]thiazole | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C2(CC2)C2=NC=CC=C2)F | C25H21FN2O2S
